US04244957
Preparation of 2-[(2,6-dichlorophenyl)imino]-1-hydroxyimidazolidine
8.4 g. of 1-benzyloxy-2-[(2,6-dichlorophenyl)imino]imidazolidine in 30 ml. of glacial acetic acid and 2.5 ml. of concentrated sulfuric acid are hydrogenated under normal pressure in the presence of 300 mg. of platinum oxide. After the uptake of hydrogen has ended, the catalyst is filtered off and the filtrate is evaporated. The residue is dissolved in water and the solution is rendered alkaline with sodium carbonate. The precipitate which has formed is filtered off, washed with a little water and dried in vacuo, whereupon 2-[(2,6-dichlorophenyl)imino]-1-hydroxyimidazolidine, m.p. 215-216°, is obtained.

reactant | 1-benzyloxy-2-[(2,6-dichlorophenyl)imino]imidazolidine | C(C1=CC=CC=C1)ON1C(NCC1)=NC1=C(C=CC=C1Cl)Cl | C16H15Cl2N3O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | [Pt]=O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-[(2,6-dichlorophenyl)imino]-1-hydroxyimidazolidine | ClC1=C(C(=CC=C1)Cl)N=C1N(CCN1)O | C9H9Cl2N3O
